US08034938B2
tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (3.11 g, 6.16 mmol) was dissolved in 60 mL of tetrahydrofuran (THF) and the solution was cooled to −78° C. under N2. A 1.0 M solution of tetrabutylammonium fluoride in THF (6.8 mL) was added and the reaction mixture was allowed to warm to −10° C. over 2 hours. The reaction mixture was then treated with 50 mL of saturated sodium bicarbonate solution and 200 mL of CH2Cl2. The layers were separated and the organic portion was washed with H2O (50 mL) and brine (4×25 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give a golden syrup. The syrup was concentrated from toluene (3×) to give a pale yellow foam. This material was dissolved in 70 mL of anhydrous THF and the solution was stirred under N2. Solid potassium tert-butoxide (507 mg, 6.18 mmol) was then added and the reaction mixture was allowed to stir for 2.5 hours. A solution of 50 mL of saturated sodium bicarbonate was then added and the THF was then removed under reduced pressure. The resulting material was treated with 150 mL of CH2Cl2 and layers were separated. The organic portion was washed with H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced to give brown foam. Chromatography (SiO2, 20% 80:18:2 CHCl3/methanol/concentrated NH4OH (CMA)/CHCl3) gave tert-butyl (11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethylcarbamate (1.62 g) as a light yellow foam.

reactant | tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 6.16 mmol, 3.11 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(OC(C)(C)C)=O)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C25H37ClN4O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | potassium tert-butoxide | 6.18 mmol, 507 mg | CC(C)([O-])C.[K+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 6.8 mL | O1CCCC1 | C4H8O
solvent | THF | 70 mL | O1CCCC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 methanol | C(Cl)(Cl)Cl.CO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethylcarbamate | 1.62 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)CNC(OC(C)(C)C)=O | C19H22N4O3
